US09278972B2
Preparation of tert-Butyl ((3aS,4R,6S,6aR)-6-(2-(tert-butoxy)ethoxy)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)carbamate (IIId)
A solution of tert-butyl ((3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyltetrahydro-3aH-cyclopenta-[d][1,3]dioxol-4-yl)carbamate (7.0 g, 25.6 mmol) in dry DMF (70 mL) under nitrogen atmosphere was cooled at 0° C. followed by addition of NaH (60%, 1.3 g, 30.7 mmol). After stirring for 30 min at 0° C., 2-(tert-butoxy)ethyl 4-methylbenzenesulfonate (7.0 g, 25.6 mmol) was added and the reaction mixture was allowed to warm at room temperature. After stirring for 4 hours, the reaction mixture was quenched with water (70 mL). To the mixture was extracted 3×100 mL of n-hexane. The combined organic phases were dried over MgSO4, filtered and evaporated to the dryness. The pure IIId was isolated from reaction mixture by chromatography on silica gel column (mobile phase: n-hexane/EtOAc).

reactant | tert-butyl ((3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyltetrahydro-3aH-cyclopenta-[d][1,3]dioxol-4-yl)carbamate | 25.6 mmol, 7.0 g | O[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC(OC(C)(C)C)=O | C13H23NO5
reactant | NaH | 30.7 mmol, 1.3 g | [H-].[Na+]
reactant | 2-(tert-butoxy)ethyl 4-methylbenzenesulfonate | 25.6 mmol, 7.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCCOC(C)(C)C | C13H20O4S
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | tert-Butyl ((3aS,4R,6S,6aR)-6-(2-(tert-butoxy)ethoxy)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)carbamate | C(C)(C)(C)OCCO[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC(OC(C)(C)C)=O | C19H35NO6
